US07354944B2
1-(5-Bromo-2-chloropyridin-3-yl)ethanone:
Starting material 5-bromo-2-chloro-N-methoxy-N-methylnicotinamide (5.0 g, 17.89 mmol) was charged into a 250 ml round bottom flask and the flask was chilled to −78° C. Methyl magnesium bromide 96.5 ml, 19.68 mmol) in 5 ml THF was added dropwise via addition finnel. The resulting mixture was allowed to stir for 3 hours at −78° C. After removing the THF solvent via rotatory evaporation under reduced pressure, the reaction mixture was partitioned between ethylacetate and saturated aqueous sodium bicarbonate. After removing the ethylacetate, the resulting crude product was subject to a silica gel column with 20% ethylacetate in hexane. The resulting product (2.28 g, y=54.3%) was used for the following step.

reactant | 5-bromo-2-chloro-N-methoxy-N-methylnicotinamide | 17.89 mmol, 5.0 g | BrC=1C=NC(=C(C(=O)N(C)OC)C1)Cl | C8H8BrClN2O2
reactant | Methyl magnesium bromide | 19.68 mmol, 96.5 ml | C[Mg]Br
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(5-Bromo-2-chloropyridin-3-yl)ethanone | BrC=1C=C(C(=NC1)Cl)C(C)=O | C7H5BrClNO
